US07511067B2
c) 4-(1-hydroxy-2-{3-[3-(4-methoxy-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamino}-ethyl)-2-hydroxymethyl-phenol
5 g of 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-{3-[3-(4-methoxy-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamino}-ethanol dissolved in 100 mL methanol are hydrogenated under normal pressure with 1 g of palladium on charcoal (5%) as catalyst. Then the catalyst is separated off and the filtrate is evaporated down. The residue is dissolved in 15 mL acetonitrile, acidified with 0.5 mL glacial acetic acid and seeded. The solid precipitated is filtered off and washed with acetonitrile and diethyl ether. Yield: 3.8 g (78%, acetate); m.p.=110-116° C.

reactant | 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-{3-[3-(4-methoxy-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamino}-ethanol | 5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CNC(CCN1N=C(N=C1C)C1=CC=C(C=C1)OC)(C)C)O)CO | C31H38N4O4
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
product | 4-(1-hydroxy-2-{3-[3-(4-methoxy-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamino}-ethyl)-2-hydroxymethyl-phenol | OC(CNC(CCN1N=C(N=C1C)C1=CC=C(C=C1)OC)(C)C)C1=CC(=C(C=C1)O)CO | C24H32N4O4
